US04006145
24.1 g of 3-[2-[4-(10,11-dihydro-2-nitro-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl]-2-oxazolidinone in 2000 ml of ethyl acetate are hydrogenated in the presence of 5.7 g of palladium/carbon (5%) at 70° C and 10 atmospheres of hydrogen. After filtration, the filtrate is concentrated under reduced pressure. There is obtained 3-[2-[4-(2-amino-10,11-dihydro-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl]-2-oxazolidinone which melts at 193°-196° C. After chromatographic purification over aluminium oxide using acetone/hexane as the elution agent, there is obtained a pure product which melts at 195.5°-196.5° C.

reactant | 3-[2-[4-(10,11-dihydro-2-nitro-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl]-2-oxazolidinone | 24.1 g | [N+](=O)([O-])C1=CC2=C(SC3=C(C(C2)N2CCN(CC2)CCN2C(OCC2)=O)C=CC=C3)C=C1 | C23H26N4O4S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 2000 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium/carbon | 5.7 g | [Pd] | Pd
product | 3-[2-[4-(2-amino-10,11-dihydro-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl]-2-oxazolidinone | NC1=CC2=C(SC3=C(C(C2)N2CCN(CC2)CCN2C(OCC2)=O)C=CC=C3)C=C1 | C23H28N4O2S
